US06867198B2
3-(5,6-Dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(5,6-difluoro-1H-indol-3-yl)pyrrole-2,5-dione
Beginning with (5,6-difluoroindol-3-yl)oxoacetic acid methyl ester and 2-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)acetamide, the title compound was prepared essentially as described in Example 1.

reactant | (5,6-difluoroindol-3-yl)oxoacetic acid methyl ester | COC(C(=O)C1=CNC2=CC(=C(C=C12)F)F)=O | C11H7F2NO3
reactant | 2-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)acetamide | C1(=CN2CCCC3=CC=CC1=C23)CC(=O)N | C13H14N2O
product | 3-(5,6-Dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(5,6-difluoro-1H-indol-3-yl)pyrrole-2,5-dione | C1(=CN2CCCC3=CC=CC1=C23)C=2C(NC(C2C2=CNC3=CC(=C(C=C23)F)F)=O)=O | C23H15F2N3O2
